US06982268B2
a. Preparation of 2-Fluoropyridine-6-carboxaldehyde
To a solution of diisopropylamine (6.54 mL, 1.2 equiv) in 30 mL of THF at 0° C., a solution of n-butyllithium (17.1 mL, 2.5M in hexanes) is added dropwise. Stirring is continued for 15 minutes at 0° C., the reaction is then cooled to −78° C. 2-Fluoro-6-methylpyridine (4.00 mL, 38.9 mmol) is added dropwise to the cold solution. The reaction mixture is stirred at −78° C. for 1 hours and then quenched with DMF (4.52 mL, 1.5 equiv). The reaction is maintained at −78° C. for 30 minutes and then warmed to 0° C. The cold solution is added to a mixture of sodium periodate (24.9 g) in 120 mL of water at 0° C. The reaction mixture is allowed to gradually warm to room temperature over 1 hours and then stirred at room temperature for 24 hours. The reaction mixture is filtered through a plug of celite to remove the precipitate and the plug is washed with ether. The organic layer is separated, washed with aqueous sodium bicarbonate (1×40 mL), then with 0.25M KH2PO4 (1×40 mL) and then brine (1×40 mL). The organic solution is dried (NaSO4) and concentrated in vacuo.

reactant | diisopropylamine | 6.54 mL, 1.2 equiv | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.5M, 17.1 mL | C(CCC)[Li]
reactant | 2-Fluoro-6-methylpyridine | 38.9 mmol, 4.00 mL | FC1=NC(=CC=C1)C | C6H6FN
reactant | DMF | 4.52 mL, 1.5 equiv | CN(C)C=O | C3H7NO
reactant | sodium periodate | 24.9 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 120 mL | O | H2O
product | 2-Fluoropyridine-6-carboxaldehyde | FC1=NC(=CC=C1)C=O | C6H4FNO
